US09303012B2
6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid benzyl-(1-trifluoromethyl-cyclopropyl)-amide
In analogy to the procedure described in Example 16 b), 6-(cyclopropylmethoxy)-5-(3,3-difluoroazetidin-1-yl)-N-(1-(trifluoromethyl)cyclopropyl)picolinamide (Example 16 a) was reacted with (chloromethyl)benzene (CAN 27987-13-9) in the presence of sodium hydride to give the title compound as colorless oil; MS (EI): m/e=482.4 [MH]+.

reactant | 6-(cyclopropylmethoxy)-5-(3,3-difluoroazetidin-1-yl)-N-(1-(trifluoromethyl)cyclopropyl)picolinamide | C1(CC1)COC1=C(C=CC(=N1)C(=O)NC1(CC1)C(F)(F)F)N1CC(C1)(F)F | C17H18F5N3O2
reactant | (chloromethyl)benzene | ClCC1=CC=CC=C1 | C7H7Cl
reactant | sodium hydride | [H-].[Na+]
product | 6-Cyclopropylmethoxy-5-(3,3-difluoro-azetidin-1-yl)-pyridine-2-carboxylic acid benzyl-(1-trifluoromethyl-cyclopropyl)-amide | C(C1=CC=CC=C1)N(C(=O)C1=NC(=C(C=C1)N1CC(C1)(F)F)OCC1CC1)C1(CC1)C(F)(F)F | C24H24F5N3O2
